US06207665B1
To a solution of 2-methylpiperazine (0.10 g, 1 mmol) in CH2Cl2 (2 mL) was added 4-fluorobenzyl bromide (0.125 mL, 1 mmol). The resultant mixture was stirred at ambient temperature. After 15 hours, the mixture was concentrated in vacuo to afford a solid. This solid was dissolved in CH2Cl2 and washed sequentially with water, aqueous NaHCO3 solution, then brine. The organic layer was dried over MgSO4, filtered, and concentrated to an oil. Purification by flash column chromatography afforded 0.025 g (12% yield) of 1-(4-fluorobenzyl)-3-methylpiperazine, a compound of formula (C), as a colorless oil; NMR (CDCl3) 7.3 (m, 2), 7.0 (m, 2), 3.4 (s, 2), 3.0-2.6 (m, 5), 2.0 (br s, 2), 1.6 (t, 1), 1.0 (d, 3) ppm.

reactant | 2-methylpiperazine | 1 mmol, 0.10 g | CC1NCCNC1 | C5H12N2
reactant | 4-fluorobenzyl bromide | 1 mmol, 0.125 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorobenzyl)-3-methylpiperazine | 0.025 g, 12% yield | FC1=CC=C(CN2CC(NCC2)C)C=C1 | C12H17FN2
